US06969717B2
Acetyl chloride (75 μL, 1.0 mmol) was added to a solution of 1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine (230 mg, 0.8 mmol) and 4-dimethylaminopyridine (5 mg) in pyridine (1.6 mL). The mixture was stirred at RT for 24 h and a saturated solution of ammonium chloride (30 mL) and ethyl acetate (30 mL) were added. The separated aqueous layer was extracted with ethyl acetate (3×25 mL) and the combined organic layers were dried, filtered and concentrated to provide an oil which was purified by preparative HPLC to afford N-(1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-acetamide (140 mg, 53%) as an oil: LCMS; m/z 332 (M+H+). B. At RT under argon, a solution of borane-dimethylsulfide complex (665 μL, 6.6 mmol, 10 M) was added to N-methyl-N-(1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-acetamide (110 mg, 0.33 mmol) in THF (3.0 mL). The mixture was heated to 65° C. for 2 h., cooled down and a 6N hydrochloric acid solution was slowly added. The mixture was heated to 100° C. and vigorously stirred for 12 h., cooled down and a 6 N sodium hydroxide solution was added until pH 7 was reached. The mixture was extracted with ethyl acetate (3×15 mL) and the combined organic layers were dried, filtered and evaporated to provide an oil which was purified through silica gel-SCX column (arylsulfonic acid with washes with methanol and 2N NH3 in methanol) to afford ethyl-(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine. LCMS; m/z 203 (M+AcCN), 162 (M+H)+.

reactant | N-methyl-N-(1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-acetamide | 0.33 mmol, 110 mg | CN(C(C)=O)C=1C=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C19H31N3OSi
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | ethyl-(1H-pyrrolo[2,3-b]pyridin-5-yl)-amine | C(C)NC=1C=C2C(=NC1)NC=C2 | C9H11N3
